US08835632B2
6.13 5-(3-Methoxy-allylidene)-1,3-dimethyl-pyrimidine-2,4,6-trione, 13
1,3-Dimethylbarbituric acid (20 g, 0.1 mol; Aldrich) was placed in 100 mL round-bottom one-necked flask equipped with magnetic stir bar and reflux condenser, 1,1,3,3-tetramethoxy-propane, (40 mL, 0.2 mol; Aldrich) and 1 mL of Trifluoroacetic Acid (2 mL, 0.03 mol; Sigma) were added to the reaction mixture. The flask was heated at 100° C. with stirring for 5 hours and then cooled to room temperature. The crystallized product was filtered, washed with methanol and dried. The yield was 23 g (80% of theory).

reactant | 1,3-Dimethylbarbituric acid | 0.1 mol, 20 g | CN1C(=O)N(C(=O)CC1=O)C | C6H8N2O3
reactant | 1,1,3,3-tetramethoxy-propane | COC(CC(OC)OC)OC | C7H16O4
reactant | Trifluoroacetic Acid | 0.03 mol, 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(3-Methoxy-allylidene)-1,3-dimethyl-pyrimidine-2,4,6-trione | COC=CC=C1C(N(C(N(C1=O)C)=O)C)=O | C10H12N2O4
